US09238640B2
{2-[2-(Tetrahydro-pyran-2-yloxy)-ethyl]-1H-indol-5-yl}-methanol (11.5 g 41.7 mmol) in anhydrous DMSO (45 mL) was added IBX (12.3 g, 43.8 mmol) and the reaction was stirred at room temperature for 2 hours. The reaction mixture was poured into water (300 mL) and extracted with ethyl acetate (300 mL), the organic phase was washed with water, then brine, and was purified by column chromatography on silica gel, eluting with dichloromethane, to give 2-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-indole-5-carbaldehyde as a white solid. Yield: 8.50 g (75%).

reactant | {2-[2-(Tetrahydro-pyran-2-yloxy)-ethyl]-1H-indol-5-yl}-methanol | 41.7 mmol, 11.5 g | O1C(CCCC1)OCCC=1NC2=CC=C(C=C2C1)CO | C16H21NO3
reactant | water | 300 mL | O | H2O
solvent | DMSO | 45 mL | CS(=O)C | C2H6OS
product | 2-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-indole-5-carbaldehyde | O1C(CCCC1)OCCC=1NC2=CC=C(C=C2C1)C=O | C16H19NO3
